US08865736B2
10-Undecyn-1-ol
A solution of commercially available 2-[(8-bromooctyl)oxy]tetrahydro-2H-pyran (1.0 g, 3.4 mmol, 1 equiv.) in DMSO (5 ml), was added, slowly, dropwise, at r.t., under N2, to a stirred suspension of lithium acetylide ethylenediamine complex (350 mg, 3.8 mmol, 1.1 equiv.) in DMSO (5 ml). The reaction mixture was stirred at r.t. for 18 h and diluted with n-pentane (50 ml). The organic phase was washed with 1N HCl solution (2×20 ml) and water (2×20 ml), dried (Na2SO4) and evaporated to dryness under reduced pressure. The residue (colourless liquid, 570 mg, yield 70%) was dissolved in 95% EtOH (20 ml) together with p-toluenesulfonic acid (150 mg) and the mixture was heated under reflux for 2.5 h. After being cooled, the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica eluting with EtOAc/hexane (10%-30% gradient), to give the desired compound as a colourless oil (240 mg, overall yield 48%).

reactant | 2-[(8-bromooctyl)oxy]tetrahydro-2H-pyran | 3.4 mmol, 1.0 g, 1 equiv. | BrCCCCCCCCOC1OCCCC1 | C13H25BrO2
reactant | n-pentane | 50 ml | CCCCC | C5H12
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 10-Undecyn-1-ol | 240 mg, yield 48% | C(CCCCCCCCC#C)O | C11H20O
